US08808703B2
A solution of (5R,9R)-tert-butyl 9-dodecanamido-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylate in 40% TFA in DCM (0.3 M) was stirred at room temperature until complete deprotection of tert-butyl group (2 hours). The reaction mixture was diluted in MTBE, washed three times with 1 M citric acid (pH 3), and once with 1:2 HCl (3 M)/brine. The organic layer was dried over anhydrous Na2SO4 and concentrated en vaccuo to give (5R,9R)-9-dodecanamido-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylic acid.

reactant | (5R,9R)-tert-butyl 9-dodecanamido-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylate | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(=O)OC(C)(C)C)COCCCCCCCCCCCCCCCC | C53H86N2O6S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (5R,9R)-9-dodecanamido-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylic acid | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(=O)O)COCCCCCCCCCCCCCCCC | C49H78N2O6S
